US04774253
A solution of 1.55 g (13.2 mmol) of methyl 2-hydroxy-2-methylpropionate in 4 ml of dimethylformamide was added during 1 hour to a stirred suspension of 0.53 g (13.2 mmol) of a 60% sodium hydride dispersion in mineral oil in 8 ml of dry dimethylformamide. The solution was stirred at room temperature for 1 hour and was then added slowly to a solution of 2 g (9.4 mmol) of 2-(4-chlorophenyl)-4-chloromethyl-oxazole in 4 ml of dry dimethylformamide at 0° C. under an argon atmosphere. The mixture was stirred at room temperature overnight and 2 ml of saturated aqueous ammonium chloride were then added. The majority of the solvent was removed by evaporation under reduced pressure and the residue was partitioned between 100 ml of diethyl ether and 100 ml of water. The organic phase was separated, washed with 100 ml of water and dried over magnesium sulphate. The organic solution was filtered and evaporated to give 2.7 g of a crude solid. This solid was dissolved in 100 ml of ethanol and 0.4 g (10 mmol) of sodium hydroxide in 5 ml of water was added. The solution was heated at reflux for 1 hour, cooled and the majority of the solvent was removed under reduced pressure. The solid residue was dissolved in 400 ml of water and extracted twice with 100 ml of diethyl ether each time. The aqueous phase was acidified to pH 2 with concentrated hydrochloric acid and extracted three times with 100 ml of dichloromethane each time. The combined dichloromethane extracts were dried over magnesium sulphate, filtered and evaporated to give a solid which was recrystallized from ethyl acetate. There were obtained 1.6 g (57%) of 2-[[2-(4-chlorophenyl)-4-oxazolyl]methoxy]-2-methylpropionic acid of melting point 144.5°-145° C.

reactant | methyl 2-hydroxy-2-methylpropionate | 13.2 mmol, 1.55 g | OC(C(=O)OC)(C)C | C5H10O3
reactant | sodium hydride | [H-].[Na+]
reactant | 2-(4-chlorophenyl)-4-chloromethyl-oxazole | 9.4 mmol, 2 g | ClC1=CC=C(C=C1)C=1OC=C(N1)CCl | C10H7Cl2NO
reactant | ammonium chloride | 2 ml | [Cl-].[NH4+]
reactant | sodium hydroxide | 10 mmol, 0.4 g | [OH-].[Na+]
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 2-[[2-(4-chlorophenyl)-4-oxazolyl]methoxy]-2-methylpropionic acid | 1.6 g, 57% | ClC1=CC=C(C=C1)C=1OC=C(N1)COC(C(=O)O)(C)C | C14H14ClNO4
